US07262196B2
(E)-3-Cyclopentyl-2-(5-methylsulfanylpyridin-2-yl)-N-thiazol-2-ylacrylamide
A solution of (E)-3-cyclopentyl-2-(5-methylsulfanylpyridin-2-yl)acrylic acid (Preparation 5, 1.00 g, 3.8 mmol), EDCI (0.95 g, 4.9 mmol), HOBt (0.67 g, 4.9 mmol) and thiazol-2-ylamine (1.52 g, 15.2 mmol) in anhydrous THF (62 mL) and DMF (50 mL) was stirred at 20° C. for 4 d. The solvents were evaporated off under reduced pressure, then the residue was partitioned between CH2Cl2 and saturated aqueous Na2CO3. The organic layer was washed with H2O and brine, before being dried (MgSO4). Filtration, solvent evaporation, and column chromatography (7:31H-EtOAc) provided the title compound: RTA=3.96 min; m/z (ES+)=346.1 [M+H]+.

reactant | (E)-3-cyclopentyl-2-(5-methylsulfanylpyridin-2-yl)acrylic acid | 3.8 mmol, 1.00 g | C1(CCCC1)/C=C(/C(=O)O)\C1=NC=C(C=C1)SC | C14H17NO2S
reactant | EDCI | 4.9 mmol, 0.95 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.9 mmol, 0.67 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | thiazol-2-ylamine | 15.2 mmol, 1.52 g | S1C(=NC=C1)N | C3H4N2S
solvent | THF | 62 mL | C1CCOC1 | C4H8O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (E)-3-Cyclopentyl-2-(5-methylsulfanylpyridin-2-yl)-N-thiazol-2-ylacrylamide | C1(CCCC1)/C=C(/C(=O)NC=1SC=CN1)\C1=NC=C(C=C1)SC | C17H19N3OS2
